US03984465
2-Allyl-2-methyl-5-methoxy-6,7-dichloro-1-indanone is prepared following substantially the same procedure described in Example 5, step E, using the following substances: 2-methyl-5-methoxy-6,7-dichloro-1-indanone (14.7 g., 0.06 mole), sodium hydride (1.7 g., 0.072 mole), 1,2 -dimethoxyethane (500 ml.) and allyl bromide (8 ml.). The above procedure gives 11.0 g. of 2-allyl-2-methyl-5-methoxy-6,7-dichloro-1-indanone which after recrystallization from methyl cyclohexane melts at 58° C.

reactant | 2-methyl-5-methoxy-6,7-dichloro-1-indanone | 0.06 mole, 14.7 g | CC1C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O | C11H10Cl2O2
reactant | sodium hydride | 0.072 mole, 1.7 g | [H-].[Na+]
reactant | allyl bromide | 8 ml | C(C=C)Br | C3H5Br
reactant | 1,2 -dimethoxyethane | 500 ml | COCCOC | C4H10O2
product | 2-Allyl-2-methyl-5-methoxy-6,7-dichloro-1-indanone | C(C=C)C1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)C | C14H14Cl2O2
